US07763639B2
1-ETHYL-4-{2-FLUORO-3-[(TRIFLUOROMETHYL)SULFONYL]PHENYL}PIPERIDINE
Preparation according to Example 1: 4-{2-fluoro-3-[(trifluoromethyl)sulfonyl]phenyl}-piperidine (0.11 g, 0.35 mmol), acetonitrile (4 ml), potassium carbonate (0.063 g, 0.7 mmol) and 1-iodoethane (0.055 g, 0.35 mmol). Yield: 0.068 g (57%). The amine was converted to the hydrochloric acid salt and recrystallized from ethanol/diethyl ether: M.p. 189-191° C. MS m/z (relative intensity, 70 eV) 339 (M+, 8), 325 (15), 324 (bp), 205 (6), 191 (15).

reactant | 4-{2-fluoro-3-[(trifluoromethyl)sulfonyl]phenyl}-piperidine | 0.35 mmol, 0.11 g | FC1=C(C=CC=C1S(=O)(=O)C(F)(F)F)C1CCNCC1 | C12H13F4NO2S
reactant | potassium carbonate | 0.7 mmol, 0.063 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-iodoethane | 0.35 mmol, 0.055 g | ICC | C2H5I
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
product | 1-ETHYL-4-{2-FLUORO-3-[(TRIFLUOROMETHYL)SULFONYL]PHENYL}PIPERIDINE | C(C)N1CCC(CC1)C1=C(C(=CC=C1)S(=O)(=O)C(F)(F)F)F | C14H17F4NO2S
